US08614213B2
Step 2: Trans-N-(4-acetylcyclohexyl)-2-chloro-5-(trifluoromethyl)benzamide
To a solution of Trans-2-chloro-N-(−4-((S)-1-hydroxyethyl)-cyclohexyl)-5-(trifluoromethyl)benzamide (1.00 g, 2.86 mmol) in DCM (20 mL) is added DIPEA (1.48 g, 11.4 mmol) of DIPEA. The reaction mixture is cooled to 0° C. and then a solution of sulfur trioxide-pyridine complex (1.82 g, 11.4 mmol) in DMSO (5 mL) is added. The reaction mixture is stirred at 0° C. for 10 min and then partitioned between DCM and water. The organic phase was washed with water and brine, dried over MgSO4, filtered and the solvent was removed in vacuo. Purification by chromatography on a pre-packed 40 g silica gel column using 0-100% EtOAc in isohexane (gradient elution) gave the desired product as a colourless solid.

reactant | Trans-2-chloro-N-(−4-((S)-1-hydroxyethyl)-cyclohexyl)-5-(trifluoromethyl)benzamide | 2.86 mmol, 1.00 g | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)[C@H](C)O)C=C(C=C1)C(F)(F)F | C16H19ClF3NO2
reactant | DIPEA | 11.4 mmol, 1.48 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | Trans-N-(4-acetylcyclohexyl)-2-chloro-5-(trifluoromethyl)benzamide | C(C)(=O)[C@@H]1CC[C@H](CC1)NC(C1=C(C=CC(=C1)C(F)(F)F)Cl)=O | C16H17ClF3NO2
